US07638517B2
To a RT solution of isopropylmagnesium chloride (1.5 M in THF, 2.4 mL, 3.6 mmol) in THF (10 mL) was added a solution of 1H-pyrrolo[3,2-c]pyridine (350 mg, 3 mmol) in THF (3 mL), followed by a solution of ZnCl2 in THF (1 M, 3.4 mL). After stirring the resulting mixture at 50° C. for 5 minutes, 2-benzylidene-malonic acid diethyl ester (1.0 mL, 4.5 mmol) was added dropwise. The mixture was stirred at 50° C. for 3 h, cooled to RT, quenched by addition of a saturated solution of NH4Cl, and extracted 3 times with EtOAc. The combined extracts were dried over Na2SO4, filtered, concentrated, and purified via flash chromatography (EtOAc), affording 2-[Phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester (0.77 g, 70% yield).

reactant | isopropylmagnesium chloride | 3.6 mmol, 1.5 M, 2.4 mL | C(C)(C)[Mg]Cl
reactant | 1H-pyrrolo[3,2-c]pyridine | 3 mmol, 350 mg | N1C=CC=2C=NC=CC21 | C7H6N2
reactant | 2-benzylidene-malonic acid diethyl ester | 4.5 mmol, 1.0 mL | C(C)OC(C(C(=O)OCC)=CC1=CC=CC=C1)=O | C14H16O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 3.4 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 2-[Phenyl-(1H-pyrrolo[3,2-c]pyridin-3-yl)-methyl]-malonic acid diethyl ester | 0.77 g, 70% yield | C(C)OC(C(C(=O)OCC)C(C1=CNC2=C1C=NC=C2)C2=CC=CC=C2)=O | C21H22N2O4
